US04315935
A mixture of 20.4 g. (0.1 mole) 8-chloro-1,2,3,4-tetrahydroisoquinoline, hydrochloride, 9.85 g. (0.12 mole) sodium acetate 40 ml. acetic anhydride and 100 ml. acetic acid was heated for 3 hours on a steambath with stirring. After the solvent was removed under reduced pressure, the residue was dissolved in water which was then made basic with concentrated ammonium hydroxide. The crude product was extracted into methylene chloride and the organic solution was washed with water, 10% hydrochloric acid, water and 5% aqueous sodium bicarbonate. The organic solution was then dried over anhydrous magnesium sulfate and then concentrated to dryness under vacuum to afford 2-acetyl-8-chloro-1,2,3,4-tetrahydroisoquinoline as a yellow oil.

reactant | 8-chloro-1,2,3,4-tetrahydroisoquinoline, hydrochloride | 0.1 mole | Cl.ClC=1C=CC=C2CCNCC12
reactant | sodium acetate | 0.12 mole, 40 ml | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-acetyl-8-chloro-1,2,3,4-tetrahydroisoquinoline | C(C)(=O)N1CC2=C(C=CC=C2CC1)Cl | C11H12ClNO
